US08912188B2
To a solution of methyl 2,4-difluorobenzoate (50 g, 290 mmol) in dioxane (300 mL) was added sodium methoxide (18.0 g, 333.21 mmol) and the reaction was stirred for 48 hours at 100° C. in an oil bath. The reaction mixture was cooled to room temperature and diluted with H2O (200 mL). The mixture was extracted with ethyl acetate (3×150 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford methyl 4-fluoro-2-methoxybenzoate as colorless oil (50.0 g, 92%).

reactant | methyl 2,4-difluorobenzoate | 290 mmol, 50 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | sodium methoxide | 333.21 mmol, 18.0 g | C[O-].[Na+]
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 200 mL | O | H2O
product | methyl 4-fluoro-2-methoxybenzoate | 50.0 g, 92% | FC1=CC(=C(C(=O)OC)C=C1)OC | C9H9FO3
